Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rollover MVC; grade 1 splenic lac, bilat ___ ribs subacute fx, 
L3 compression fx
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This patient is a ___ year old female who is transferred from
outside hospital for head injury, low sodium, elevated
troponin. She has a history of a seizure disorder, prior
stroke with residual left-sided weakness. She was going to
see her doctor today for routine ___, was leaving her
parking space and accidentally pressed on the accelerator
instead of the brake and went up an embankment and flipped
her car over. She needed to be extricated. She had left
eyebrow laceration that required sutures. At outside
hospital, sodium was 121 and troponin was 0.06 so
transferred here for further evaluation. She denies chest
pain or trouble breathing. She states that her sodium has
been low in the past but never this low. She remembers the
details of the event and denies any loss of consciousness.
She had a CT head and C-spine which showed an old stroke but
no acute ICH or fracture. She also had a normal chest x-ray
and pelvis x-ray.

 
Past Medical History:
PMH:
HTN
HyperC
Stroke at age ___

 
Social History:
___
Family History:
N/C
 
Physical Exam:
Gen: NAD, AxOx3
HEENT: Left periorbital mild swelling, sutured 4cm laceration 
supraorbital in browline 
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Wounds: c/d/i
Ext: No edema, warm well-perfused

 
Pertinent Results:
___ 08:10PM   cTropnT-0.14*
___ 08:10PM   WBC-5.7 RBC-3.77* HGB-11.9 HCT-33.5* MCV-89 
MCH-31.6 MCHC-35.5 RDW-12.8 RDWSD-41.5
___ 08:10PM   PLT COUNT-234
___ 05:42PM URINE  HOURS-RANDOM SODIUM-42
___ 05:42PM URINE  OSMOLAL-214
___ 05:42PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:42PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:42PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 05:42PM URINE  MUCOUS-RARE*
___ 04:46PM   COMMENTS-GREEN TOP
___ 04:46PM   GLUCOSE-107* CREAT-0.4 NA+-124* K+-4.3 
TCO2-24
___ 04:46PM   estGFR-Using this
___ 04:34PM   UREA N-7
___ 04:34PM   cTropnT-0.14*
___ 04:34PM   CALCIUM-9.3 PHOSPHATE-3.4 MAGNESIUM-1.7
___ 04:34PM   OSMOLAL-250*
___ 04:34PM   WBC-6.5 RBC-3.99 HGB-12.5 HCT-35.1 MCV-88 
MCH-31.3 MCHC-35.6 RDW-12.7 RDWSD-41.3
___ 04:34PM   NEUTS-78.8* LYMPHS-10.9* MONOS-9.3 EOS-0.2* 
BASOS-0.5 IM ___ AbsNeut-5.16 AbsLymp-0.71* AbsMono-0.61 
AbsEos-0.01* AbsBaso-0.03
___ 04:34PM   PLT COUNT-245
___ 04:34PM   ___ PTT-29.2 ___
 
Brief Hospital Course:
 The patient presented on ___ after a fall in which she 
sustained a grade 1 splenic laceration, bilateral rib fractures 
___ and a non-operative L3 compression fracture. All injuries 
were managed non-operatively. The L3 fracture was managed with 
the use of a TLSO brace. General Surgery service watched her H/H 
for her grade 1 splenic laceration. 

 #SURGICAL COURSE: 
 #NEURO: The patient was alert and oriented throughout 
hospitalization; pain was controlled on oral pain medication. 
Pain was very well controlled.  
 #CV: The patient's initial inciting event was syncope. 
Cardiology and EP cardiology both were consulted and recommended 
medical management of the patients gustatory sweating after 
meals and syncope.   
 #PULMONARY: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
 #GI/GU/FEN: The patient was voiding normally. The patient was 
tolerating a regular diet prior to discharge.  
 #ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  
 #HEME: Patient received BID SQH for DVT prophylaxis, in 
addition to encouraging early ambulation and Venodyne 
compression devices.  

 #TRANSITIONAL ISSUES  
 --------------------  
 At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating diet as 
above per oral, ambulating, voiding without assistance, and pain 
was well controlled. She deferred wearing her TLSO brace for 
comfort as it was not comfortable. The patient was discharged 
home without services. The patient received discharge teaching 
and ___ instructions with understanding verbalized and 
agreement with the discharge plan.  

 
Medications on Admission:
Meds:
Carbamazapine 500 TID 
Lisinopril 20mg HS
Tegretol XR 400mg TID
simvastatin 20mg QPM
Doxycycline 100 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Glycopyrrolate 1 mg PO BID 
RX *glycopyrrolate 1 mg 1 (One) tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*2 
4.  Ibuprofen 400 mg PO Q8H:PRN Headache  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  Simvastatin 20 mg PO QPM  
8.  CarBAMazepine 400 mg PO TID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  LevETIRAcetam 500 mg PO TID  
11.  Lisinopril 20 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
grade 1 splenic laceration

bilateral rib fractures ___

L3 compression fracture

Secondary:

Hyponatremia

elevated troponins

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after you were involved in a 
motor vehicle crash. You sustained a laceration to your spleen, 
rib fractures, and a fracture to your lower back. You were also 
noted to have elevated cardiac markers and the Cardiology 
service was consulted.  You were evaluated by the Orthopedic 
Spine service who recommended a back brace for comfort.  You rib 
pain was controlled with oral analgesia.  No surgery was 
indicated for the splenic laceration. You were seen by physical 
therapy and cleared for discharge home with the following 
instructions.  
 
Followup Instructions:
___